US06897231B2
A. 1-Perhydro-2H-pyran-2-yl-3-[3-(3-piperidylpropanoylamino)phenyl]-1H-indazole-5-carboxamide
To a solution of 3-piperidylpropanoic acid (0.102 g, 0.65 mmol) in 6 mL of dichloromethane was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) (0.135 g, 0.71 mmol). After 10 min at room temperature, 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (0.200 g, 0.59 mmol) was then added as a solid followed by 2 mL of dimethyl formamide. The reaction mixture was stirred at room temperature overnight. The crude mixture was partitioned between water and ethyl acetate. The crude was not purified (yield not calculated). ES-MS (m/z) 476 [M+H]+.

reactant | 3-piperidylpropanoic acid | 0.65 mmol, 0.102 g | N1CC(CCC1)C(C(=O)O)C | C8H15NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.71 mmol, 0.135 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.59 mmol, 0.200 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-Perhydro-2H-pyran-2-yl-3-[3-(3-piperidylpropanoylamino)phenyl]-1H-indazole-5-carboxamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C(=O)N)C1=CC(=CC=C1)NC(CCC1CNCCC1)=O | C27H33N5O3
